US06951875B2
6-(2-p-Tolyl-vinyl)-pyridin-2-yl-amine hydrochloride
In a variation to the procedure referred to in example 1, 6-(2-p-tolyl-vinyl)-pyridine-2-carboxylic acid (2.81 g, 11.7 mmol) was brought to reaction with triethylamine (1.21 g, 12.0 mmol), diphenyl phosphoryl azide (3.56 g, 12.9 mmol) and butanol (33 ml). After extractive workup the residue was refluxed (4 hr) with 3N HCl. Extractive workup and chromatography (SiO2 with AcOEt/hexane/NEt3=10:20:1) afforded the title compound as an oil which was crystallized as the yellow hydrochloride salt (0.95 g, 33%). Mp.>250° C. (MeOH/Et2O), MS: m/e=210 (M+).

reactant | 6-(2-p-tolyl-vinyl)-pyridine-2-carboxylic acid | 11.7 mmol, 2.81 g | C1(=CC=C(C=C1)C=CC1=CC=CC(=N1)C(=O)O)C | C15H13NO2
reactant | triethylamine | 12.0 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 12.9 mmol, 3.56 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | HCl | 3N | Cl | ClH
solvent | AcOEt hexane NEt3 | CCOC(=O)C.CCCCCC.CCN(CC)CC
solvent | butanol | 33 ml | C(CCC)O | C4H10O
product | 6-(2-p-Tolyl-vinyl)-pyridin-2-yl-amine hydrochloride | Cl.C1(=CC=C(C=C1)C=CC1=CC=CC(=N1)N)C | InChI=1S/C14H14N2.ClH/c1-11-5-7-12(8-6-11)9-10-13-3-2-4-14(15)16-13;/h2-10H,1H3,(H2,15,16);1H
